US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)glycyl-L-leucinate
80 mg (0.45 mmol) of N-(tert-butoxycarbonyl)glycine were initially charged in 5.0 ml of DMF, and 95 mg (0.49 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 95 mg (0.62 mmol) of 1-hydroxy-1H-benzotriazole hydrate and 267 mg (2.06 mmol) of N,N-diisopropylethylamine were added. The mixture was stirred until a clear solution had been obtained. 330 mg (0.41 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-leucinate trifluoroacetate were then added, and the mixture was stirred at room temperature for 18 h. The reaction mixture was added to 300 ml of water. The residue formed was filtered off with suction and washed with 20 ml of water. The crude product was suspended in 15 ml of methanol and sonicated in an ultrasonic bath for 5 min. The residue was filtered off with suction and washed with 10 ml of diethyl ether. This gave 0.17 g (47% of theory) of the desired target compound.

reactant | N-(tert-butoxycarbonyl)glycine | 0.45 mmol, 80 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.49 mmol, 95 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-1H-benzotriazole hydrate | 0.62 mmol, 95 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 2.06 mmol, 267 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-leucinate trifluoroacetate | 0.41 mmol, 330 mg | FC(C(=O)O)(F)F.N[C@@H](CC(C)C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)glycyl-L-leucinate | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C42H46ClN7O6S2
